* C:\Users\sunzi\Documents\Study\LaTech\BIOM_510_Bioinstrumentation\Lab\Lab3\Lab3.asc
XU1 0 N001 P001 P002 N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N001 N003 1K
R2 N002 N001 5K
V1 N003 0 SINE(0. 0.01 10K)
V2 0 P002 12
V3 P001 0 12
C2 N001 N003 100n
.tran 1M
* .ac oct 3 10 2MEG
.lib UniversalOpAmp2.lib
.backanno
.end
